US07253196B2
1-Benzoyl-3-cyclooctylthiourea
Benzoyl isothiocyanate (7.40 mL, 54.0 mmol) was added to a solution of cyclooctanamine (6.25 g, 49.1 mmol) in 200 mL of chloroform. The mixture was stirred at ambient temperature overnight. The solvents were removed in vacuo to give the title compound as a viscous light yellowish oil. MS m/z: 291.0 (M+H)+.

reactant | Benzoyl isothiocyanate | 54.0 mmol, 7.40 mL | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
reactant | cyclooctanamine | 49.1 mmol, 6.25 g | C1(CCCCCCC1)N | C8H17N
solvent | chloroform | 200 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-Benzoyl-3-cyclooctylthiourea | C(C1=CC=CC=C1)(=O)NC(=S)NC1CCCCCCC1 | C16H22N2OS
